Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CCO[C:1](=[O:2])[NH:3][c:4]1[n:5][c:6]2[cH:7][c:8]([O:9][CH3:10])[c:11]([O:12][CH3:13])[cH:14][c:15]2[n:16][c:17]1[O:18][CH3:19].[CH3:20][c:21]1[cH:22][c:23]([CH3:24])[cH:25][c:26]([N:27]2[CH2:28][CH2:29][NH:30][CH2:31][CH2:32]2)[cH:33]1>>[C:1](=[O:2])([NH:3][c:4]1[n:5][c:6]2[cH:7][c:8]([O:9][CH3:10])[c:11]([O:12][CH3:13])[cH:14][c:15]2[n:16][c:17]1[O:18][CH3:19])[N:30]1[CH2:29][CH2:28][N:27]([c:26]2[cH:25][c:23]([CH3:24])[cH:22][c:21]([CH3:20])[cH:33]2)[CH2:32][CH2:31]1,CC[O:101][C:1](=[O:2])[NH:3][c:4]1[n:5][c:6]2[cH:7][c:8]([O:9][CH3:10])[c:11]([O:12][CH3:13])[cH:14][c:15]2[n:16][c:17]1[O:18][CH3:19].[CH3:20][c:21]1[cH:22][c:23]([CH3:24])[cH:25][c:26]([N:27]2[CH2:28][CH2:29][NH:30][CH2:31][CH2:32]2)[cH:33]1>>[C:1](=[O:2])([NH:3][c:4]1[n:5][c:6]2[cH:7][c:8]([O:9][CH3:10])[c:11]([O:12][CH3:13])[cH:14][c:15]2[n:16][c:17]1[O:18][CH3:19])[N:30]1[CH2:29][CH2:28][N:27]([c:26]2[cH:25][c:23]([CH3:24])[cH:22][c:21]([CH3:20])[cH:33]2)[CH2:32][CH2:31]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(30, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][CH2:2][CH2:3][n:4]1[c:5](=[O:6])[c:7]2[cH:8][c:9]([F:10])[c:11]([NH:12][CH:13]3[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]3)[cH:19][c:20]2[n:21]([CH:22]2[CH2:23][CH2:24][CH2:25][CH2:26]2)[c:27]1=[O:28]>>[NH2:1][CH2:2][CH2:3][n:4]1[c:5](=[O:6])[c:7]2[cH:8][c:9]([F:10])[c:11]([NH:12][CH:13]3[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]3)[cH:19][c:20]2[n:21]([CH:22]2[CH2:23][CH2:24][CH2:25][CH2:26]2)[c:27]1=[O:28],[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH2:2][CH2:3][n:4]1[c:5](=[O:6])[c:7]2[cH:8][c:9]([F:10])[c:11]([NH:12][CH:13]3[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]3)[cH:19][c:20]2[n:21]([CH:22]2[CH2:23][CH2:24][CH2:25][CH2:26]2)[c:27]1=[O:28].[H+:301]>>[NH2:1][CH2:2][CH2:3][n:4]1[c:5](=[O:6])[c:7]2[cH:8][c:9]([F:10])[c:11]([NH:12][CH:13]3[CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]3)[cH:19][c:20]2[n:21]([CH:22]2[CH2:23][CH2:24][CH2:25][CH2:26]2)[c:27]1=[O:28],Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][C@H:2]([C:3]([NH:4][C@@H:5]([C@@H:6]([c:7]1[cH:8][cH:9][c:10]([O:11][CH3:12])[cH:13][cH:14]1)[OH:15])[C:16](=[O:17])[O:18][CH2:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[O:26])[CH2:27][OH:28]>>[NH2:1][C@H:2]([C:3]([NH:4][C@@H:5]([C@@H:6]([c:7]1[cH:8][cH:9][c:10]([O:11][CH3:12])[cH:13][cH:14]1)[OH:15])[C:16](=[O:17])[O:18][CH2:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[O:26])[CH2:27][OH:28],[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C@H:2]([C:3]([NH:4][C@@H:5]([C@@H:6]([c:7]1[cH:8][cH:9][c:10]([O:11][CH3:12])[cH:13][cH:14]1)[OH:15])[C:16](=[O:17])[O:18][CH2:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[O:26])[CH2:27][OH:28].[H+:301]>>[NH2:1][C@H:2]([C:3]([NH:4][C@@H:5]([C@@H:6]([c:7]1[cH:8][cH:9][c:10]([O:11][CH3:12])[cH:13][cH:14]1)[OH:15])[C:16](=[O:17])[O:18][CH2:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[O:26])[CH2:27][OH:28],Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][C@@H:2]1[CH2:3][CH2:4][N:5]([c:6]2[n:7]3[cH:8][c:9]([CH2:10][N:11]([CH3:12])[C@H:13]4[CH2:14][CH2:15][CH2:16][c:17]5[cH:18][cH:19][cH:20][n:21][c:22]54)[n:23][c:24]3[cH:25][cH:26][cH:27]2)[CH2:28]1>>[NH2:1][C@@H:2]1[CH2:3][CH2:4][N:5]([c:6]2[n:7]3[cH:8][c:9]([CH2:10][N:11]([CH3:12])[C@H:13]4[CH2:14][CH2:15][CH2:16][c:17]5[cH:18][cH:19][cH:20][n:21][c:22]54)[n:23][c:24]3[cH:25][cH:26][cH:27]2)[CH2:28]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C@@H:2]1[CH2:3][CH2:4][N:5]([c:6]2[n:7]3[cH:8][c:9]([CH2:10][N:11]([CH3:12])[C@H:13]4[CH2:14][CH2:15][CH2:16][c:17]5[cH:18][cH:19][cH:20][n:21][c:22]54)[n:23][c:24]3[cH:25][cH:26][cH:27]2)[CH2:28]1.[H+:301]>>[NH2:1][C@@H:2]1[CH2:3][CH2:4][N:5]([c:6]2[n:7]3[cH:8][c:9]([CH2:10][N:11]([CH3:12])[C@H:13]4[CH2:14][CH2:15][CH2:16][c:17]5[cH:18][cH:19][cH:20][n:21][c:22]54)[n:23][c:24]3[cH:25][cH:26][cH:27]2)[CH2:28]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
